US06114532
4-[(5-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-indol-2-yl)-methyl]-N'-(2-methanesulphonyl-ethyloxycarbonyl)benzamidine
300 mg (0.5 mmol) of 4-[(5-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-indol-2-yl)-methyl]-benzamidine-hydrochloride, 170 mg (0.6 mmol) of 2-(methylsulphonyl)-ethyl-4-nitrophenylcarbonate and 210 mg (1.5 mmol) of potassium carbonate are stirred in 30 ml tetrahydrofuran for 5 hours at ambient temperature. Then the reaction mixture is filtered and the mother liquor is concentrated by evaporation. The residue is taken up in methylene chloride and washed with sodium hydrogen carbonate solution. The combined organic extracts are dried and concentrated by evaporation. The residue is chromatographed on aluminium oxide and eluted with methylene chloride/ethanol (99:1).

reactant | 4-[(5-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-indol-2-yl)-methyl]-benzamidine-hydrochloride | 0.5 mmol, 300 mg | Cl.C(C)OC(=O)CN(C=1C=C2C=C(N(C2=CC1)C)CC1=CC=C(C(=N)N)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12
reactant | potassium carbonate | 1.5 mmol, 210 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[(5-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-indol-2-yl)-methyl]-N'-(2-methanesulphonyl-ethyloxycarbonyl)benzamidine | C(C)OC(=O)CN(C=1C=C2C=C(N(C2=CC1)C)CC1=CC=C(C(=NC(=O)OCCS(=O)(=O)C)N)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | C34H35N5O8S2
